US06914074B2
1-Chloro-6-(2,6-difluoro-4-hydroxyphenyl)-2-naphthol
The title compound was prepared by reacting 6-(2,6-difluoro-4-hydroxyphenyl)-2-naphthol (510 mg, 1.86 mmol) and NCS (301 mg, 2.25 mmol) in THF (30 mL) according to Method C to yield 440 mg (77%) of yellowish solid: mp 213-214° C.;

reactant | 6-(2,6-difluoro-4-hydroxyphenyl)-2-naphthol | 1.86 mmol, 510 mg | FC1=C(C(=CC(=C1)O)F)C=1C=C2C=CC(=CC2=CC1)O | C16H10F2O2
reactant | NCS | 2.25 mmol, 301 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-Chloro-6-(2,6-difluoro-4-hydroxyphenyl)-2-naphthol | ClC1=C(C=CC2=CC(=CC=C12)C1=C(C=C(C=C1F)O)F)O | C16H9ClF2O2
